* C:\Users\pavlos\AppData\Local\LTspice\local\my\schematics\Hybrid\NOT_CMOS\not.asc
* NOT
* 1 In
* 2 Out
* 3 Vdd
* 4 Vss
*
.subckt not 1 2 3 4
XU1 1 3 2 pmos
XU2 1 2 4 nmos
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\PMOS\pmos.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NMOS\nmos.lib
.backanno
.ends not






